US04166818
3-Phenyl-5-trichloromethyl-1,2,4-oxadiazole
Trichloroacetic anhydride (154.4 g, 0.5 mole) was added to a stirred solution of benzamidoxime (34.0 g, 0.25 mole) in dry trichloroacetic acid (160 g) in an oil bath at ~60° C. The reaction mixture was heated at 120° C. for 20 minutes and on cooling was poured into ice/water (400 ml). The organic layer was separated, washed with water and taken up in carbon tetrachloride (500 ml) and neutralised by washing with a saturated solution of NaHCO3. After drying over MgSO4 and evaporating off the carbon tetrachloride, the product was distilled. (b.p. 118° C./0.07 mmHg).

reactant | Trichloroacetic anhydride | 0.5 mole, 154.4 g | ClC(C(=O)OC(C(Cl)(Cl)Cl)=O)(Cl)Cl | C4Cl6O3
reactant | benzamidoxime | 0.25 mole, 34.0 g | C(C1=CC=CC=C1)(N)=NO | C7H8N2O
solvent | trichloroacetic acid | 160 g | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
product | 3-Phenyl-5-trichloromethyl-1,2,4-oxadiazole | C1(=CC=CC=C1)C1=NOC(=N1)C(Cl)(Cl)Cl | C9H5Cl3N2O
